US07700786B2
Triethylamine (0.10 g, 1.0 mmol) and 2-chloroethyl isocyanate (0.12 g, 1.1 mmol) were added to a solution of 4-chloro-3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-methylpyrazole (0.35 g, 1.0 mmol) in ethyl acetate (10 ml), and the mixture was stirred at room temperature for 8 hours. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid and extracted with ethyl acetate (10 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/10), to give a white solid of N-(2-chloroethyl)-4-chloro-3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-methylpyrazole-1-carboxamide (0.44 g, yield: 97.6%). mp: 141-143° C.; 1H-NMR (CDCl3, TMS, ppm): δ 2.62 (s, 3H), 3.55-3.65 (m, 4H), 6.80-7.05 (m, 1H), 7.67 (s, 2H).

reactant | Triethylamine | 1.0 mmol, 0.10 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloroethyl isocyanate | 1.1 mmol, 0.12 g | ClCCN=C=O | C3H4ClNO
reactant | 4-chloro-3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-methylpyrazole | 1.0 mmol, 0.35 g | ClC=1C(=NNC1C)OC1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C11H6Cl3F3N2O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-(2-chloroethyl)-4-chloro-3-(2,6-dichloro-4-trifluoromethylphenyloxy)-5-methylpyrazole-1-carboxamide | 0.44 g, yield: 97.6% | ClCCNC(=O)N1N=C(C(=C1C)Cl)OC1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C14H10Cl4F3N3O2
